US04418075
In 80 ml of the tetrahydrofuran were dissolved 1.00 g of DL-trans-benzylhydrogenepoxysuccinate, 1.70 g of N-L-leucyl-N'-benzyloxycarbonyl-1,7-diaminoheptane, 0.73 g of 1-hydroxybenzotriazole and 0.55 g of N-methylmorpholine. To the solution was slowly added 0.95 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride under ice-cooling with stirring. The mixture was stirred for 2 hours under ice-cooling and then for 2 hours at room temperature. The solution was concentrated under reduced pressure and admixed with 100 ml of ethyl acetate and 100 ml of water and the mixture was shaken vigorously. The ethyl acetate layer was separated and washed successively with a 10% aqueous hydrochloric acid solution, an aqueous saturated bicarbonate solution and an aqueous saturated sodium chloride solution and concentrated to dryness. The resulting residue was purified by column chromatography on silica gel (chloroform:acetone=10:1) and recrystallized from ethyl acetate-n-hexane to give 1.50 g of N-[N-DL-3-trans-benzyloxycarboxyloxirane-2-carbonyl)-L-leucyl]-N'-benzyloxycarbonyl-1,7-diaminoheptane m.p. 134° C. Yield: 67%.

reactant | N-L-leucyl-N'-benzyloxycarbonyl-1,7-diaminoheptane | 1.70 g | N[C@@H](CC(C)C)C(=O)NCCCCCCCNC(=O)OCC1=CC=CC=C1 | C21H35N3O3
reactant | 1-hydroxybenzotriazole | 0.73 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 0.55 g | CN1CCOCC1 | C5H11NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.95 g | Cl.C(C)N=C=NCCCN(C)C
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | N'-benzyloxycarbonyl-1,7-diaminoheptane | Yield: 67% | C(C1=CC=CC=C1)OC(=O)NCCCCCCCN | C15H24N2O2
